resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.984641
R2 0 n2 0.990915
R3 0 n4 1.018146
R4 n1 n3 1.00222
R5 n1 n5 0.98869
R6 n2 n3 0.994559
R7 n2 n6 1.015369
R8 n3 n7 1.00757
R9 n4 n5 1.017144
R10 n4 n6 1.003053
R11 n5 n7 1.011651
C12 n6 n7 1.66e-06
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i]
.endc
.end
